US05246957
5-Fluoro-1-[[4-(1H-imidazol-1-yl)phenyl]methyl]-3-methyl-1H-indole-2-propanamide
A suspension of 5-fluoro-1-[[4-(1H-imidazol-1-yl)phenyl]methyl]-3-methyl-1H-indole-2-propanoic acid (1.0 g) in DMF (10 ml) is treated with SOCl2 (0.5 g) and, after cooling a gaseous NH3 is passed through the reaction mixture for 6 hours. The ammonium salt is filtered off and ether is added to the solution. The so obtained precipitated is filtered and dried to give 0.8 g of the title compound.

reactant | 5-fluoro-1-[[4-(1H-imidazol-1-yl)phenyl]methyl]-3-methyl-1H-indole-2-propanoic acid | 1.0 g | FC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)N1C=NC=C1)CCC(=O)O)C | C22H20FN3O2
reactant | SOCl2 | 0.5 g | O=S(Cl)Cl | Cl2OS
reactant | NH3 | N | H3N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-Fluoro-1-[[4-(1H-imidazol-1-yl)phenyl]methyl]-3-methyl-1H-indole-2-propanamide | 0.8 g | FC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)N1C=NC=C1)CCC(=O)N)C | C22H21FN4O
